US09238644B2
(a) 2-(2-((Trimethylsilyl)ethynyl)phenyl)propanamide (I15)
A mixture of 2-(2-iodophenyl)propanamide I13 (16.5 g, 0.060 mol), CuI (0.229 g, 1.20 mmol), tri-tert-butylphosphonium tetrafluoroborate (0.348 g, 1.20 mmol), PdCl2(PPh3)2 (0.421 g, 0.600 mmol) and trimethylsilylacetylene (10.3 mL, 0.072 mol) in DMF (60 mL) was bubbled with N2 for 10 minutes. Et3N (50 mL) was then added and the mixture was stirred under nitrogen at 60° C. for 5 hours. The reaction mixture was cooled and the volatiles were removed in vacuo. The dark brown residue was adsorbed onto silica and purified by column chromatography (Biotage Isolera, 120 g SiO2 cartridge, 0-30% EtOAc in petroleum benzine 40-60° C.) to give the title compound I15 as an orange oil (11.5 g, 78%). LCMS-D: rt 3.49 min; m/z 246 [M+H]+.

reactant | 2-(2-iodophenyl)propanamide | IC1=C(C=CC=C1)C(C(=O)N)C | C9H10INO
reactant | tri-tert-butylphosphonium tetrafluoroborate | 1.20 mmol, 0.348 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | trimethylsilylacetylene | 0.072 mol, 10.3 mL | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.20 mmol, 0.229 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.600 mmol, 0.421 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-((Trimethylsilyl)ethynyl)phenyl)propanamide | C[Si](C)(C)C#CC1=C(C=CC=C1)C(C(=O)N)C | C14H19NOSi
